US06297258B1
4-(1,4,7-Trioxa-10-aza-cyclododec-10-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide
In the mamner of Example 103, 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide and 1,4,7-trioxa-10-aza cyclododecane was converted to 37.5 mg of the title compound(free base) and mass spectrum (electrospray, m/e): M+H 584.1, 17.1 mg of the title compound as the bis-trifluoroacetate salt); mass spectrum (electrospray, m/e): M+H 584.1.

reactant | 4-bromo-but-2-enoic acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OC)C#N | C21H15BrClFN4O2
reactant | 1,4,7-trioxa-10-aza cyclododecane | O1CCOCCOCCNCC1 | C8H17NO3
product | 4-(1,4,7-Trioxa-10-aza-cyclododec-10-yl)-but-2-enoic Acid[4-(3-chloro-4-fluoro-phenylamino)-3-cyano-7-methoxy-quinolin-6-yl]-amide | 17.1 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCN1CCOCCOCCOCC1)=O)OC)C#N | C29H31ClFN5O5
